US05082939
A suspension of 3-[2-(3,4-dimethoxyphenyl)ethylamino]-1,2-propanediol (13 g) and 2,2-dimethoxypropane (30 ml) in acetone (400 ml) was stirred at room temperature until a clear solution was obtained (about 24 hours). Evaporation of the solvent gave 15 g of 3-[2-(3,4-dimethoxyphenyl)ethyl]-2,2-dimethyl-5-hydroxymethyloxazolidine, as an oily residue. This residue was dissolved in acetonitrile (500 ml) and to the stirred and ice-cold solution, 3-chloro-6-triphenylmethylazopyridazine (16 g) and sodium hydrice (4 g, as a 50% suspension in oil) were added. Stirring was continued for one hour at room temperature, then 20% hydrochloric acid (20 ml) and brine (200 ml) were added, and the mixture stirred for one hour. The organic layer was separated and evaporated to dryness.

reactant | 3-[2-(3,4-dimethoxyphenyl)ethylamino]-1,2-propanediol | 13 g | COC=1C=C(C=CC1OC)CCNCC(CO)O | C13H21NO4
reactant | 2,2-dimethoxypropane | 30 ml | COC(C)(C)OC | C5H12O2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 3-[2-(3,4-dimethoxyphenyl)ethyl]-2,2-dimethyl-5-hydroxymethyloxazolidine | 15 g | COC=1C=C(C=CC1OC)CCN1C(OC(C1)CO)(C)C | C16H25NO4
